US08486939B2
To 0.186 g (1.96 mmol) of 5-aminopyrimidine in THF (4 mL) was added 1.1 mL of NaHMDS (2 M solution in THF) at 0° C. and the mixture was stirred for 15 min. A solution of 0.238 g (0.65 mmol) of 1-[4-chloro-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-2-(difluoromethyl)-1H-benzimidazole in THF (5 mL) was added and the resulting mixture WAS stirred for 1 hr at room temperature. The resulting mixture was neutralized with acetic acid, diluted with water, and extracted with EtOAc. The organic layer was washed with water, and aq. NH3, and dried. Removal of the solvent, followed by chromatography on alumina, eluting with CH2Cl2/EtOAc (1:9), then CH2Cl2/EtOAc (1:3), gave an off-white powder. Recrystallization from ethanol gave 0.123 g (47% yield) of 4-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-N-(5-pyrimidinyl)-1,3,5-triazin-2-amine: mp 290-292° C.; 1H NMR (CDCl3) δ9.07 (s, 2H), 9.02 (s, 1H), 8.37 (d, J=7.2 Hz, 1H), 7.89 (dd, J=7.7, 1.5 Hz, 1H), 7.57 (t, JHF=53.7 Hz, 1H), 7.47-7.40 (m, 2H), 7.11 (s, 1H), 3.95-3.92 (m, 4H), 3.83 (br s, 4H); Anal. Calcd. for C19H17F2N9O: C, 53.65; H, 4.0; N, 29.6. Found: C, 53.4; H, 4.2; N, 29.4%.

reactant | 5-aminopyrimidine | 1.96 mmol, 0.186 g | NC=1C=NC=NC1 | C4H5N3
reactant | NaHMDS | 2 M, 1.1 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 1-[4-chloro-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-2-(difluoromethyl)-1H-benzimidazole | 0.65 mmol, 0.238 g | ClC1=NC(=NC(=N1)N1CCOCC1)N1C(=NC2=C1C=CC=C2)C(F)F | C15H13ClF2N6O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 4-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-N-(5-pyrimidinyl)-1,3,5-triazin-2-amine | 0.123 g, 47% yield | FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1CCOCC1)NC=1C=NC=NC1)C=CC=C2)F | C19H17F2N9O
